US04206122
3-(Acetylthio)propanoic acid p-nitrophenyl ester
To a stirred ice cold solution of ethyl acetate (75 ml.) containing 3-(acetylthio)propanoic acid (7.4 g. 50 mmol.) and p-nitrophenol (8.4 g., 60 mmol.) dicyclohexylcarbodiimide (10.3 g., 50 mmol.) is added in portions. After thirty minutes, the ice bath is removed and the solution stirred at room temperature overnight. The precipitated dicyclohexylurea is filtered off, ethyl acetate evaporated, and the residue dissolved in ethanol. The 3-(acetylthio)propanoic acid p-nitrophenyl ester crystallizes out, yield 8.6 g. (63.7%), m.p. 71°-73°.

reactant | 3-(acetylthio)propanoic acid | 50 mmol, 7.4 g | C(C)(=O)SCCC(=O)O | C5H8O3S
reactant | p-nitrophenol | 60 mmol, 8.4 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dicyclohexylcarbodiimide | 50 mmol, 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 3-(Acetylthio)propanoic acid p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(CCSC(C)=O)=O | C11H11NO5S
